FULL_CIR_SIM
**********************************************************************************************************
* SOLAR MAX. POWER POINT TRACKER MQP
* JOHNATHAN ADAMS, BENJAMIN BEAUREGARD, ANDREW FLYNN
* ADVISOR: PROFESSOR ALEXANDER EMANUEL
* A, B, C TERM 2016-2017
* WORCESTER POLYTECHNIC INSTITUTE
**********************************************************************************************************
* DOCUMENT: FULL_CIR_SIM.CIR
* DATE CREATED: 10/12/16
* LAST REVISED: 10/18/16
* REVISION NOTES:
*	v1_0: (10/12/16) created initial file with SOLAR CELL SIMULATOR, INPUT FILTER, and BUCK CONVERTER
*
*	v1_1: (10/12/16) corrected polarity of VPWM, swapped polarity of RLOAD for current reference,
*		  changed value of RLOAD from 1k to 100, bypassed SOLAR CELL SIM by connecting direct to VSOLAR
*		  (see comments throughout indicating node swaps)
*
*	v2_0: (10/13/16) put each part of circuit (solar sim, filter, buck) in its own subcircuit and added
*		  "MAIN" section for connecting these primary subcircuits together. RLOAD also moved to "MAIN"
*
*	v2_1: (10/14/16) changed ground reference (node 0) from solar panel side to output side, changed load
*		  to 5 ohms to simulate higher current draw through circuit
*
*   v4_0: (10/14/16) removed two stages from filter. Added second filter for output of MPPT buck converter
*		  added second buck converter for constant voltage output. Skipped version numbers to allow PSpice
*		  file updates to reflect MULTISIM circuit diagram file updates
*
*   v4_1: (10/17/16) changed vulse voltage source in OUT_BUCK to a pulse voltage source controlling a 
*		  voltage-controlled switch to simulate BJT in micro shorting gate of PMOS to GND. Also flipped
*		  the OUT_BUCK PMOS so it actually works (Drain and Source were flipped when first implimented).
*		  OUT_BUCK PMOS driver circuit still needs work, convergence issues w/ large RQ3 values and issues
*		  with shutting off the PMOS
*
*	v4_2: (10/18/16) changed driver circuit for OUT_BUCK PMOS to a CMOS driver. Moved PWM sources to main
*		  for ease of adjustment for future simulations. Further work needs to be done on the PMOS driver.
*		  Started looking into an integrated solution (high-side gate driver, such as UC3709 but no model)
*
*	v*_*  (10/26/16) added to GitHub. All further version control will be made through Git
*
**********************************************************************************************************
* MAIN: FOR CONNECTING PRIMARY SUBCIRCUITS TOGETHER
**********************************************************************************************************
XSOLAR 1 0 SOLAR_SIM
XFILTER_1 1 2 0 FILTER_1
VPWM1 3 4 PULSE(0 3.3 0 1n 1n 0.01m 0.02m) 
XMPPT_BUCK 2 3 4 5 0 MPPT_BUCK
XFILTER_2 5 6 0 FILTER_2
VPWM2 7 8 PULSE(0 3.3 0 1n 1n 0.01m 0.02m)
XOUT_BUCK 6 7 8 9 0 OUT_BUCK
RLOAD 9 0 100

**********************************************************************************************************
* SOLAR CELL SIMULATOR
* OUTPUT NODES TO BE CONNECTED TO FILTER
* GND_REF TO BE CONNECTED TO NODE 0
**********************************************************************************************************
.SUBCKT SOLAR_SIM P_OUT GND
    VSOLAR 2 1 36.7
    D1 2 P_OUT D1N4004
    * MODEL BY SYMMETRY DESIGN SYSTEMS
    .MODEL D1N4004 D
            +IS=5.31656e-08 RS=0.0392384 N=2 EG=0.6
            +XTI=0.05 BV=400 IBV=5e-08 CJO=1e-11
            +VJ=0.7 M=0.5 FC=0.5 TT=1e-09
            +KF=0 AF=1
    RSOLAR1 P_OUT 3 10K
    * RSOLAR1 AND RSOLAR2 MAKE UP 50% 10K POT TO IRF1310 GATE
    RSOLAR2 3 4 5K
    RSOLAR3 4 1 5K
    XQ1 GND 4 1 IRF1310
.ENDS
* END SOLAR_SIM

.SUBCKT IRF1310 1 2 3
	*MODEL BY SYMMETRY DESIGN SYSTEMS
	* External Node Designations
	* Node 1 -> Drain
	* Node 2 -> Gate
	* Node 3 -> Source
	M1 9 7 8 8 MM L=100u W=100u
	* Default values used in MM:
	* The voltage-dependent capacitances are
	* not included. Other default values are:
	* RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
	.MODEL MM NMOS LEVEL=1 IS=1e-32
	+ VTO=3.63122 LAMBDA=0 KP=35.017
	+ CGSO=2.41576e-05 CGDO=2.63501e-07
	RS 8 3 0.0273231
	D1 3 1 MD
	.MODEL MD D IS=1.52845e-09 RS=0.00743652 N=1.2982 BV=100
	+ IBV=0.00025 EG=1 XTI=3.65242 TT=2.00001e-05
	+ CJO=2.72404e-09 VJ=0.800983 M=0.501737 FC=0.1
	RDS 3 1 4e+06
	RD 9 1 0.0001
	RG 2 7 6
	D2 4 5 MD1
	* Default values used in MD1:
	* RS=0 EG=1.11 XTI=3.0 TT=0
	* BV=infinite IBV=1mA
	.MODEL MD1 D IS=1e-32 N=50
	+ CJO=2.2506e-09 VJ=0.5 M=0.793881 FC=1e-08
	D3 0 5 MD2
	* Default values used in MD2:
	* EG=1.11 XTI=3.0 TT=0 CJO=0
	* BV=infinite IBV=1mA
	.MODEL MD2 D IS=1e-10 N=0.412074 RS=3e-06
	RL 5 10 1
	FI2 7 9 VFI2 -1
	VFI2 4 0 0
	EV16 10 0 9 7 1
	CAP 11 10 3.81086e-09
	FI1 7 9 VFI1 -1
	VFI1 11 6 0
	RCAP 6 10 1
	D4 0 6 MD3
	* Default values used in MD3:
	* EG=1.11 XTI=3.0 TT=0 CJO=0
	* RS=0 BV=infinite IBV=1mA
	.MODEL MD3 D IS=1e-10 N=0.412074
.ENDS
* END IRF1310

**********************************************************************************************************
* FILTER 1
* INPUT NODES TO BE CONNECTED TO SOLAR CELL SIMULATOR OUTPUT
* OUTPUT NODES TO BE CONNECTED TO BUCK CONVERTER INPUT
**********************************************************************************************************
.SUBCKT FILTER_1 P_IN P_OUT GND
	XFLTR1 P_IN 1 GND FLTR_STAGE
	XFLTR2 1 2 GND FLTR_STAGE
	LFLTR_FINAL 2 3 1m
	RIND_FLTR_FINAL 3 P_OUT 10m
	CFLTR_FINAL 4 GND 33n
	RCAP_FLTR_FINAL P_OUT 4 8m
.ENDS
*END FILTER_1

.SUBCKT FLTR_STAGE 1 2 3
    * External node designations:
    * Node 1 -> stage input
    * Node 2 -> stage output
    * Node 3 -> ground
    L 1 4 1m
    R_IND 4 2 10m
    C 5 3 100n
    R_CAP 5 2 8m
.ENDS
* END FLTR_STAGE

**********************************************************************************************************
* MPPT BUCK CONVERTER
* INPUT NODES TO BE CONNECTED TO FILTER OUTPUT
* SIG_IN NODE TO BE CONNECTED TO PULSE VOLTAGE SOURCE IN MAIN FOR PWM
* OUTPUT NODES TO BE CONNECTED TO FILTER 2
**********************************************************************************************************
.SUBCKT MPPT_BUCK P_IN SIG_IN P_REF P_OUT GND
	XQ2 P_IN SIG_IN P_REF DMT6009LCT
	D2 GND P_REF MBR1060
	* MODEL BY SYMMETRY DESIGN SYSTEMS
	.MODEL MBR1060 D
        +IS=0.000132385 RS=0.0122186 N=2 EG=0.828762
        +XTI=3.80757 BV=60 IBV=0.0001 CJO=1e-11
        +VJ=0.7 M=0.5 FC=0.5 TT=0
        +KF=0 AF=1
	LOUT_FLTR P_REF 1 1m
	RIND_OUT_FLTR 1 P_OUT 137m
	COUT_FLTR 2 GND 15u
	RCAP_OUT_FLTR P_OUT 2 8m
.ENDS
* END MPPT_BUCK

.SUBCKT DMT6009LCT 1 2 3 
		* MODEL BY DIODES INC.
        * External node designation:
        * Node 1 -> Drain
        * Node 2 -> Gate
        * Node 3 -> Source 
        M1 5 6 7 7 NMOS L = 1E-006 W = 1E-006 
        RD 1 5 0.006099 
        RS 3 7 1E-008 
        RG 2 6 5.71 
        CGS 6 7 2.016E-009 
        EGD 12 0 6 5 1 
        VFB 14 0 0 
        FFB 6 5 VFB 1 
        CGD 13 14 1E-009 
        R1 13 0 1 
        D1 12 13 DLIM 
        DDG 15 14 DCGD 
        R2 12 15 1 
        D2 15 0 DLIM 
        DSD 7 1 DSUB 
        .MODEL NMOS NMOS LEVEL = 3 VMAX = 8E+005 ETA = 0.001 VTO = 2.086 
        + TOX = 6E-008 NSUB = 1E+016 KP = 136.4 U0 = 400 KAPPA = 4.441E-010 
        .MODEL DCGD D CJO = 4.367E-010 VJ = 1 M = 0.5797 
        .MODEL DSUB D IS = 2.239E-010 N = 1.183 RS = 0.005972 BV = 67 CJO = 8.953E-010 VJ = 1 M = 0.201 
        .MODEL DLIM D IS = 0.0001 
.ENDS
* END DMT6009LCT 

**********************************************************************************************************
* FILTER 2
* INPUT NODES TO BE CONNECTED TO MPPT BUCK CONVERTER OUTPUT
* OUTPUT NODES TO BE CONNECTED TO OUTPUT BUCK CONVERTER INPUT
* NOTE: USES "FLTR_STAGE" SUBCIRCUIT FROM FILTER 1
**********************************************************************************************************
.SUBCKT FILTER_2 P_IN P_OUT GND
	XFLTR1 P_IN 1 GND FLTR_STAGE
	XFLTR2 1 2 GND FLTR_STAGE
	LFLTR_FINAL 2 3 1m
	RIND_FLTR_FINAL 3 P_OUT 10m
	CFLTR_FINAL 4 GND 33n
	RCAP_FLTR_FINAL P_OUT 4 8m
.ENDS
*END FILTER_2

**********************************************************************************************************
* OUT BUCK CONVERTER
* P_IN AND GND NODES TO BE CONNECTED TO FILTER_2 OUTPUT
* SIG_IN NODE TO BE CONNECTED TO PULSE VOLTAGE SOURCE IN MAIN FOR PWM
* OUTPUT NODES TO BE CONNECTED TO LOAD (IN MAIN)
* NOTE: USES DMT6009LCT SUBCIRCUIT FROM MPPT_BUCK
**********************************************************************************************************
.SUBCKT OUT_BUCK P_IN SIG_IN P_REF P_OUT GND
	XQ3 P_IN SIG_IN P_REF DMT6009LCT
	D3 GND P_REF MBR1060
	* MODEL BY SYMMETRY DESIGN SYSTEMS
	.MODEL MBR1060 D
        +IS=0.000132385 RS=0.0122186 N=2 EG=0.828762
        +XTI=3.80757 BV=60 IBV=0.0001 CJO=1e-11
        +VJ=0.7 M=0.5 FC=0.5 TT=0
        +KF=0 AF=1
	LOUT_FLTR P_REF 1 1m
	RIND_OUT_FLTR 1 P_OUT 137m
	COUT_FLTR 2 GND 15u
	RCAP_OUT_FLTR P_OUT 2 8m
.ENDS
* END OUT_BUCK

**********************************************************************************************************
* SIMULATION CONFIGURATION
**********************************************************************************************************
.PROBE
.TRAN 50m 50m 0u 500n UIC
.END 
